US06608078B2
A mixture of 1-benzyl-3,5-diethyl-4-hydroxy-3-methylpiperidine (1.8 g, 6.89 mmole) and 20% palladium hydroxide (0.2 g) in methanol (20 ml) was stirred in hydrogen atmosphere (4 atm.) for 3 hr at 45° C. Catalyst was filtered off, washed with methanol, filtrate was concentrated to give 3,5-diethyl-4-hydroxy-3-methylpiperidine as oil. Yield 1.1 g (94%), C12H2,NO, m/z 172 (M+1).

reactant | 1-benzyl-3,5-diethyl-4-hydroxy-3-methylpiperidine | 6.89 mmole, 1.8 g | C(C1=CC=CC=C1)N1CC(C(C(C1)CC)O)(C)CC | C17H27NO
solvent | methanol | 20 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | 0.2 g | [OH-].[Pd+2].[OH-]
product | 3,5-diethyl-4-hydroxy-3-methylpiperidine | C(C)C1(CNCC(C1O)CC)C | C10H21NO
